US07595345B2
K. 2-(4-{1-Ethyl-1-[4-(1-hydroxy-cyclopentylethynyl)-3-methyl-phenyl]-propyl}-2-methyl-benzoylamino)-2-methyl-propionic acid
2-(4-{1-Ethyl-1-[4-(1-hydroxy-cyclopentylethynyl)-3-methyl-phenyl]-propyl}-2-methyl-benzoylamino)-2-methyl-propionic acid methyl ester (360 mg, 0.715 mmol) and lithium hydroxide (51 mg, 2.15 mmol) are reacted and purified in a procedure analogous to Example 1I to give the title compound (353 mg, quant.).

reactant | 2-(4-{1-Ethyl-1-[4-(1-hydroxy-cyclopentylethynyl)-3-methyl-phenyl]-propyl}-2-methyl-benzoylamino)-2-methyl-propionic acid methyl ester | 0.715 mmol, 360 mg | COC(C(C)(C)NC(C1=C(C=C(C=C1)C(CC)(C1=CC(=C(C=C1)C#CC1(CCCC1)O)C)CC)C)=O)=O | C32H41NO4
reactant | lithium hydroxide | 2.15 mmol, 51 mg | [OH-].[Li+]
product | 2-(4-{1-Ethyl-1-[4-(1-hydroxy-cyclopentylethynyl)-3-methyl-phenyl]-propyl}-2-methyl-benzoylamino)-2-methyl-propionic acid | 353 mg | C(C)C(CC)(C1=CC(=C(C=C1)C#CC1(CCCC1)O)C)C1=CC(=C(C(=O)NC(C(=O)O)(C)C)C=C1)C | C31H39NO4
